US06753322B2
N-(2-Aminoethyl)-N′-[1-(2-pyridinyl)-4-piperidinyl]urea dihydrochloride
To a suspension of tert-butyl 2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethylcarbamate (Preparation 72) (20.6 g, 0.0567 moles) in ethyl acetate (115 ml) under an atmosphere of nitrogen was added a saturated solution of hydrogen chloride in ethyl acetate (115 ml) and the resulting thick slurry was stirred at ambient temperature for 2 hours. The solid was collected by filtration and the filter cake was washed with ethyl acetate (2×50 ml) after which it was dried in vacuo at 50° C. to give the title compound (21.0 g) as a hygroscopic colourless solid, m.p. 112-120° C.

reactant | tert-butyl 2-[({[1-(2-pyridinyl)-4-piperidinyl]amino}carbonyl)amino]ethylcarbamate | 0.0567 moles, 20.6 g | N1=C(C=CC=C1)N1CCC(CC1)NC(=O)NCCNC(OC(C)(C)C)=O | C18H29N5O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 115 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 115 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-Aminoethyl)-N′-[1-(2-pyridinyl)-4-piperidinyl]urea dihydrochloride | 21.0 g | Cl.Cl.NCCNC(=O)NC1CCN(CC1)C1=NC=CC=C1 | InChI=1S/C13H21N5O.2ClH/c14-6-8-16-13(19)17-11-4-9-18(10-5-11)12-3-1-2-7-15-12;;/h1-3,7,11H,4-6,8-10,14H2,(H2,16,17,19);2*1H
